### PR TITLE
Changing various functors to use fmap + misc wildcat additions

### PR DESCRIPTION
**Pull request by Alizter**
Summary of changes:
 * Changed many definitions/lemmas about `X_functor` to use the wildcat `fmap` instead. This is by no means comprehensive, but a good look at what can be done.
 * Added various lemmas about initial and terminal objects.
 * Added some theory of pointed functors (functors between pointed categories)
 * Cleaned up a few proofs along the way.
 * Finished proof that pType is univalent.
 * Probably some others that I missed.

This work is culminating from another project I am working on.

### CODE REVIEW

File: theories/Algebra/ooGroup.v [hunk 1]
```diff
@@ -129,50 +129,37 @@ Definition group_loops_functor_compose
...
   assert (p := eisretr (loops_group X) g).
+  refine (fmap_id loops _ g @ _).
   rewrite <- p.
   rewrite !loops_functor_group.
-  rewrite (pointed_htpy (loops_functor_idmap _)).
-  simpl. apply ap.
-  rewrite concat_p1, concat_1p, ap_idmap.
+  pose (q := pointed_htpy
+    (fmap_id loops X : _ ==* _) ((loops_group X)^-1 g)).
+  rewrite q.
```
Comment (Alizter) [inline theories/Algebra/ooGroup.v:159]: rewrite is being dumb here for some reason

File: theories/Homotopy/HomotopyGroup.v [hunk 2]
```diff
@@ -196,26 +184,22 @@ Proof.
...
 Proof.
   destruct n; intros x.
   all:refine ((O_functor_compose 0 _ _ _)^ @ _ @ (O_functor_compose 0 _ _ _)).
   all:apply O_functor_homotopy.
   - reflexivity.
-  - exact (pointed_htpy (unfold_iterated_loops_functor n.+1 f)).
+  - exact (pointed_htpy (unfold_iterated_fmap_loops n.+1 f)).
 Defined.
 
 Definition groupiso_pi_functor (n : nat)
```
Comment (Alizter) [inline theories/Homotopy/HomotopyGroup.v:199]: This is a common trend in HomotopyGroup.v. Many proofs became much much shorter.

File: theories/Pointed/Core.v [hunk 3]
```diff
@@ -664,8 +664,16 @@ Proof.
...
+  - simpl.
+    refine (_^ @ (concat_p1 _)^).
+    rapply (equiv_moveL_Mp _ _ _)^-1.
+    refine (_ @ (concat_p1 _)^).
+    rewrite transport_paths_FlFr.
+    hott_simpl.
+    rewrite transport_path_universe_equiv_path.
+    rewrite ap_V.
+    apply inv_V.
+Defined.
```
Comment (Alizter) [inline theories/Pointed/Core.v:676]: The proof wasn't so bad.

File: theories/Pointed/Loops.v [hunk 4]
```diff
@@ -39,181 +39,167 @@ Definition istrunc_loops {n} (A : pType) `{IsTrunc n.+1 A}
...
+Lemma pequiv_loops_punit : loops pUnit <~>* pUnit.
+Proof.
+  snrapply Build_pEquiv'.
+  { srapply (equiv_adjointify (fun _ => tt) (fun _ => idpath)).
+    1: by intros [].
+    rapply path_contr. }
+  reflexivity.
+Defined. 
+
 (** ** Functoriality of loop spaces *)
```
Comment (Alizter) [inline theories/Pointed/Loops.v:51]: Many proofs here became much shorter.

File: theories/Pointed/pSusp.v [hunk 5]
```diff
@@ -32,63 +32,47 @@ Definition psusp (X : pType) : pType
 
 (** ** Suspension Functor *)
```
Comment (Alizter) [inline theories/Pointed/pSusp.v:33]: Similar savings here. Hopefully soon we will have a notion of 1-adjunction which should do most of the work here more generally.

File: theories/Truncations/Core.v [hunk 6]
```diff
@@ -93,6 +93,9 @@ Section TruncationModality.
     : Tr@{i} n X -> Tr@{j} n Y
     := O_functor@{k k k} (Tr n) f.
 
+  Global Instance is0functor_Tr : Is0Functor (Tr n)
+    := Build_Is0Functor _ _ _ _ (Tr n) (@Trunc_functor).
+
```
Comment (jdchristensen) [inline theories/Truncations/Core.v:98]: In other cases, you got rid of `..._functor`.  Is there a reason to keep `Trunc_functor`?

File: theories/Truncations/Core.v [hunk 7]
```diff
@@ -118,6 +121,14 @@ Section TruncationModality.
     : Tr n (X * Y) <~> Tr n X * Tr n Y
     := equiv_O_prod_cmp (Tr n) X Y.
 
+  Global Instance is1functor_Tr : Is1Functor (Tr n).
+  Proof.
+    apply Build_Is1Functor.
+    - apply @O_functor_homotopy.
+    - apply @Trunc_functor_idmap.
+    - apply @Trunc_functor_compose.
+  Defined.
```
Comment (jdchristensen) [inline theories/Truncations/Core.v:130]: Similarly, it other cases you got rid of `..._idmap`, `..._compose`, etc.

File: theories/WildCat/PointedCat.v [hunk 8]
```diff
@@ -14,34 +14,99 @@ Global Existing Instance isterminal_zero_object.
...
+  Proof.
+    refine (_ $@L (compose_V_hh be f)^$ $@ _).
+    refine (cat_assoc_opp _ _ _ $@ _).
+    refine (_ $@L (mor_terminal_unique a _ _)^$ $@ _).
+    exact ((mor_initial_unique _ _ _)^$ $@R _).
   Defined.
 
 End ZeroLaws.
 
+(** We show the last two arguments so that end pointes can easily be specified. We had to do this again, since the section encapsulated the previous attempt. *)
```
Comment (jdchristensen) [inline theories/WildCat/PointedCat.v:57]:
```suggestion
(** We make the last two arguments explicit so that end points can easily be specified. We had to do this again, since the section encapsulated the previous attempt. *)
```

**Review by jdchristensen — APPROVED** [review]
This is very nice.  Since more typeclass inference is involved with this approach, I was curious whether the compile time for the library is significantly affected.

File: theories/Algebra/ooGroup.v (hunk 1 above)
Comment (mikeshulman) [reply theories/Algebra/ooGroup.v:159]: Do you mean it doesn't work to just `rewrite (pointed_htpy ...)`?

File: theories/Homotopy/ExactSequence.v [hunk 9]
```diff
@@ -302,31 +301,33 @@ Definition fiberseq_isexact_purely {F X Y : pType} (i : F ->* X) (f : X ->* Y)
 Definition fiberseq_loops {F X Y} (fs : FiberSeq F X Y)
   : FiberSeq (loops F) (loops X) (loops Y).
 Proof.
-  exists (loops_functor fs.1).
-  refine (_ o*E pequiv_loops_functor fs.2).
-  exact ((pfiber_loops_functor fs.1)^-1* ).
+  (** TODO: doesn't work?! *)
+(*   exists (fmap loops fs.1). *)
```
Comment (mikeshulman) [inline theories/Homotopy/ExactSequence.v:305]: That's weird, what's the error?

File: theories/Pointed/Core.v (hunk 3 above)
Comment (mikeshulman) [reply theories/Pointed/Core.v:676]: Great!  Maybe remove the `TODO: finish` above?

**Review by mikeshulman — APPROVED** [review]
This is great!  It's really nice to see the wildcat machinery starting to pay off.

File: theories/Algebra/ooGroup.v (hunk 1 above)
Comment (Alizter) [reply theories/Algebra/ooGroup.v:159]: Yes

File: theories/Truncations/Core.v (hunk 6 above)
Comment (Alizter) [reply theories/Truncations/Core.v:98]: I didn't originally want to touch `Trunc_functor` too much since that is used in a lot of places. I ended up needing a wildcat instance for `Tr` however, so I left it partway converted. I am not sure I want to touch it right now.

File: theories/Homotopy/ExactSequence.v (hunk 9 above)
Comment (Alizter) [reply theories/Homotopy/ExactSequence.v:305]: I'm not sure what exactly is going on, but my guess `exists` isn't doing typeclass search before unifying and therefore getting stuck. I think there is a similar issue with the `rewrite` before.

File: theories/Homotopy/HomotopyGroup.v [hunk 10]
```diff
@@ -196,26 +184,22 @@ Proof.
...
   {X Y : pType} (e : X <~>* Y)
-  : Pi n.+1 X $<~> Pi n.+1 Y.
-Proof.
-  snrapply Build_GroupIsomorphism.
-  1: apply (pi_functor n.+1 e).
-  nrefine (Trunc_functor_isequiv _ _).
-  refine (isequiv_homotopic _ (pequiv_iterated_loops_functor_is_iterated_loops_functor n.+1 e)).
-Defined.
+  : Pi n.+1 X $<~> Pi n.+1 Y
+  := emap (Pi n.+1) e.
```
Comment (jdchristensen) [inline theories/Homotopy/HomotopyGroup.v:202]: This looks like it is three lines shorter, but it is better than that, since it also removes the need for `pequiv_iterated_loops_functor_is_iterated_loops_functor`.

File: theories/Algebra/ooGroup.v (hunk 1 above)
Comment (jarlg) [reply theories/Algebra/ooGroup.v:159]: You could do `exact (ap (loops_group X) (fmap_id loops _ _)^).` instead of the pose and rewrite here.

File: theories/Homotopy/HomotopyGroup.v [hunk 11]
```diff
@@ -243,24 +227,10 @@ Proof.
   1,2: reflexivity.
 Defined.
 
-(** WildCat instances for [Pi] *)
-Global Instance is0functor_pi (n : nat) : Is0Functor (Pi n.+1).
-Proof.
-  constructor. intros X Y f. exact (pi_functor (n.+1) f).
-Defined.
-
-Global Instance is1functor_pi (n : nat) : Is1Functor (Pi n.+1).
```
Comment (jdchristensen) [inline theories/Homotopy/HomotopyGroup.v:252]: Is there some reason that this reason isn't needed anymore?  Seems like it would be useful to have...

File: theories/Homotopy/HomotopyGroup.v [hunk 12]
```diff
@@ -120,13 +133,13 @@ Definition pi_functor_type_pmap {n X Y}
 Coercion pi_functor_type_pmap : pi_functor_type >-> pForall.
 
 (** For the same reason as for [Pi1] we first define [pi1_functor]. *)
```
Comment (jdchristensen) [inline theories/Homotopy/HomotopyGroup.v:135]:
```suggestion
(** For the same reason as for [Pi1] we make [Pi1] a functor before making [Pi] a functor. *)
```

File: theories/Homotopy/HomotopyGroup.v (hunk 11 above)
Comment (jdchristensen) [reply theories/Homotopy/HomotopyGroup.v:252]: Ah, but now it's super easy!  I'll make a commitable suggestion in the right spot.

File: theories/Homotopy/HomotopyGroup.v [hunk 13]
```diff
@@ -142,49 +155,24 @@ Proof.
...
-  - apply O_functor_homotopy; exact p.
-  - apply O_functor_homotopy. refine (iterated_loops_2functor (n.+1) _); exact p.
+  apply Build_Is1Functor.
+  - intros a b f g p.
+    exact (fmap2 (Tr 0 o loops) p).
+  - intros X.
+    exact (fmap_id (Tr 0 o loops) X).
+  - intros a b c f g.
+    exact (fmap_comp (Tr 0 o loops) f g).
 Defined.
```
Comment (jdchristensen) [inline theories/Homotopy/HomotopyGroup.v:177]:
```suggestion

Global Instance is1functor_pi (n : nat) : Is1Functor (Pi n)
  := ltac:(destruct n; exact _).

```

File: theories/Homotopy/HomotopyGroup.v [hunk 14]
```diff
@@ -142,49 +155,24 @@ Proof.
...
-Definition pi_2functor (n : nat)
-  {X Y : pType} (f g : X ->* Y) (p : f ==* g)
-  : pi_functor n f == pi_functor n g.
+Global Instance is1functor_pi1 : Is1Functor Pi1.
 Proof.
-  destruct n; intros x.
-  - apply O_functor_homotopy; exact p.
-  - apply O_functor_homotopy. refine (iterated_loops_2functor (n.+1) _); exact p.
+  apply Build_Is1Functor.
+  - intros a b f g p.
```
Comment (jdchristensen) [inline theories/Homotopy/HomotopyGroup.v:170]:
```suggestion
  - intros X Y f g p.
```

File: theories/Homotopy/HomotopyGroup.v [hunk 15]
```diff
@@ -142,49 +155,24 @@ Proof.
...
+    exact (fmap2 (Tr 0 o loops) p).
+  - intros X.
+    exact (fmap_id (Tr 0 o loops) X).
+  - intros a b c f g.
```
Comment (jdchristensen) [inline theories/Homotopy/HomotopyGroup.v:174]:
```suggestion
  - intros X Y Z f g.
```

File: theories/Homotopy/HomotopyGroup.v [hunk 16]
```diff
@@ -142,49 +155,24 @@ Proof.
...
-
-Definition pi_2functor (n : nat)
-  {X Y : pType} (f g : X ->* Y) (p : f ==* g)
-  : pi_functor n f == pi_functor n g.
+Global Instance is1functor_pi1 : Is1Functor Pi1.
 Proof.
-  destruct n; intros x.
-  - apply O_functor_homotopy; exact p.
-  - apply O_functor_homotopy. refine (iterated_loops_2functor (n.+1) _); exact p.
+  apply Build_Is1Functor.
```
Comment (jdchristensen) [inline theories/Homotopy/HomotopyGroup.v:169]:
```suggestion
  (** The conditions for [Pi1] to be a 1-functor only involve equalities of maps between groups, which reduce to equalities of maps between types.  Type inference shows that [Tr 0 o loops] is a 1-functor, and so it follows that [Pi1] is a 1-functor. *)
  apply Build_Is1Functor.
```
One can even write:
```coq
  assert (is1f : Is1Functor (Tr 0 o loops)) by exact _.
  apply Build_Is1Functor; intros; apply is1f; assumption.
```
but the `apply` step is slow, so the current proof is better.

**Comment by Alizter** [comment]
Regarding the compile time, the compile step takes around 3min, where as the latest master took around 3:30min so it looks to be faster! It would of course be good to compare on somebodies machine to be sure.

File: theories/Algebra/ooGroup.v [hunk 17]
```diff
@@ -129,50 +129,37 @@ Definition group_loops_functor_compose
...
 Definition group_loops_functor_idmap {X : pType}
 : grouphom_idmap (group_loops X)
-  == group_loops_functor pmap_idmap.
+  == group_loops_functor (Id (A:=pType) _).
 Proof.
   intros g.
   unfold grouphom_fun, grouphom_idmap.
   assert (p := eisretr (loops_group X) g).
+  refine (fmap_id loops _ g @ _).
   rewrite <- p.
```
Comment (jdchristensen) [inline theories/Algebra/ooGroup.v:155]:
```suggestion
  refine (fmap_id loops _ g @ _).
  rewrite <- (eisretr (loops_group X) g).
```

File: theories/Algebra/ooGroup.v (hunk 1 above)
Comment (jdchristensen) [reply theories/Algebra/ooGroup.v:159]: Jarl beat me to it...
```suggestion
  exact (ap (loops_group X) (fmap_id loops _ _)^).
```

File: theories/Algebra/ooGroup.v [hunk 18]
```diff
@@ -129,50 +129,37 @@ Definition group_loops_functor_compose
...
   rewrite !loops_functor_group.
-  rewrite (pointed_htpy (loops_functor_idmap _)).
-  simpl. apply ap.
-  rewrite concat_p1, concat_1p, ap_idmap.
+  pose (q := pointed_htpy
+    (fmap_id loops X : _ ==* _) ((loops_group X)^-1 g)).
+  rewrite q.
   reflexivity.
```
Comment (jdchristensen) [inline theories/Algebra/ooGroup.v:160]: Need to also get rid of the reflexivity.
```suggestion
```

**Comment by jdchristensen** [comment]
In my test, the compile time went from 3m50.77s to 3m53.47s, so it is 1.12% slower.  Not bad.  The file that slowed down the most was Homotopy/WhiteheadsPrinciple.vo, which got +0m00.70s.

File: theories/Homotopy/WhiteheadsPrinciple.v [hunk 19]
```diff
@@ -92,21 +92,21 @@ Proof.
...
     exact (concat_1p _ @ concat_p1 _).
   - intros p k; revert p.
     assert (h3 : forall (y:A) (q:x=y),
-               IsEquiv (pi_functor k.+1 (pmap_from_point (@ap _ _ f x y) q))).
+               IsEquiv (fmap (Pi k.+1) (pmap_from_point (@ap _ _ f x y) q))).
     2:exact (h3 x).
     intros y q. destruct q.
-    nrefine (isequiv_homotopic (pi_functor k.+1 (loops_functor (pmap_from_point f x))) _).
-    2:{ apply pi_2functor; srefine (Build_pHomotopy _ _).
+    refine (isequiv_homotopic (fmap (Pi k.+1) (fmap loops (pmap_from_point f x))) _).
```
Comment (jdchristensen) [inline theories/Homotopy/WhiteheadsPrinciple.v:104]: Changing `nrefine` to `refine` here caused the line to go from instantaneous to ~1s.  The following fixes it.  The same thing might also fix some places where Coq is unable to figure out the Is0Functor instances.
```suggestion
    nrefine (isequiv_homotopic (fmap (Pi k.+1) (Is0Functor:=is0functor_pi _) (fmap loops (Is0Functor:=is0functor_loops) (pmap_from_point f x))) _).
```

If this happens a lot, we could make an `fmap'` that allows us to write `fmap' is0functor_loops ...` instead of `fmap loops (Is0Functor:=is0functor_loops) ...`.

Comment (Alizter) [reply theories/Homotopy/WhiteheadsPrinciple.v]: The real problem here is that we have no control over which typeclass searches we are doing. We can either do all of them or none of them. Since the IsEquiv search is causing the slow down, I've opted to split this into two lines.

File: theories/Homotopy/ExactSequence.v (hunk 9 above)
Comment (jdchristensen) [reply theories/Homotopy/ExactSequence.v:305]: This is probably a place where passing the `Is0Functor` argument to `fmap` would fix it.  But using `refine` rather than `exists` is better.

File: theories/Homotopy/WhiteheadsPrinciple.v (hunk 19 above)
Comment (jdchristensen) [reply theories/Homotopy/WhiteheadsPrinciple.v]: I like the way you handled this.  Resolving this.

**Comment by Alizter** [comment]
Let me clean up the git history a bit.

File: theories/Homotopy/ExactSequence.v (hunk 9 above)
Comment (Alizter) [reply theories/Homotopy/ExactSequence.v:305]: So `exists` is a variant of `split` which is turn a variant of `constructor`. `constructor` like `apply` isn't very good at doing typeclass inference. There is even a warning in the ref manual https://coq.inria.fr/refman/proof-engine/tactics.html?highlight=exists#coq:tacn.constructor
